US06159904
3 Milliliters of acetic acid and 1.75 g (15.47 mmol) of a 30 wt % hydrogen peroxide aqueous solution were added to 2.00 g (7.03 mmol) of 8-chloro-6-ethoxycarbonyl-5-methylthiochroman-4-one in a 50-ml round-bottomed flask, and the mixture was allowed to react at 70° C. for 2 hours. The reaction mixture was diluted with about 50 ml of water, and a sodium hydrogensulfite was added to decompose excess hydrogen peroxide. Then, the mixture was extracted with ethyl acetate. An organic layer was washed with a saturated sodium hydrogencarbonate aqueous solution and with a saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure to give 1.20 g (yield 54%) of 8-chloro-6-ethoxycarbonyl-5-methylthiochroman-4-one-1,1-dioxide.

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | OO | H2O2
reactant | 8-chloro-6-ethoxycarbonyl-5-methylthiochroman-4-one | 7.03 mmol, 2.00 g | ClC=1C=C(C(=C2C(CCSC12)=O)C)C(=O)OCC | C13H13ClO3S
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | water | about 50 ml | O | H2O
product | 8-chloro-6-ethoxycarbonyl-5-methylthiochroman-4-one-1,1-dioxide | 1.20 g, yield 54% | ClC=1C=C(C(=C2C(CCS(C12)(=O)=O)=O)C)C(=O)OCC | C13H13ClO5S
